US03970693
Ten grams (0.05 mole) of 3-chloro-4'-fluoro-2-methylpropiophenone is added to 20 ml. of concentrated sulfuric acid at 20°-25°C and the mixture is warmed to 50°C. After stirring for 3 hours at 50°C, the reaction is quenched in ice. The product is extracted into hexane. The hexane layer is concentrated in vacuo to give 5-fluoro-2-methyl-1-indanone.

reactant | 3-chloro-4'-fluoro-2-methylpropiophenone | 0.05 mole, Ten grams | ClCC(C(=O)C1=CC=C(C=C1)F)C | C10H10ClFO
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 5-fluoro-2-methyl-1-indanone | FC=1C=C2CC(C(C2=CC1)=O)C | C10H9FO
